US08252820B2
I. N-Sulfamoyl-N-(2-benzyloxy-4-bromo-6-fluorophenyl)glycine methyl ester
To a solution of 1.25 g (2.28 mmol) of N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-bromo-6-fluorophenyl)glycine methyl ester in 6 mL of methylene chloride is added 6 mL of TFA. The solution is stirred at room temperature for 20 min. then the solvent is removed under reduced pressure. The residual oil is purified by flash chromatography using 15% ethyl acetate in methylene chloride to elute the product as an oil: 1H NMR (CDCl3) δ 7.48-7.36 (m, 5H), 7.02-6.98 (m, 2H), 5.10 (d, J=4.30 Hz, 2H), 4.94 (s, 2H), 4.34 (q, 2H), 3.70 (s, 3H); MS (M−H)−=447.

reactant | N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-4-bromo-6-fluorophenyl)glycine methyl ester | 2.28 mmol, 1.25 g | COC(CN(C1=C(C=C(C=C1F)Br)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C21H24BrFN2O7S
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | N-Sulfamoyl-N-(2-benzyloxy-4-bromo-6-fluorophenyl)glycine methyl ester | COC(CN(C1=C(C=C(C=C1F)Br)OCC1=CC=CC=C1)S(N)(=O)=O)=O | C16H16BrFN2O5S
